US06900201B2
1-[6-(1-PYRIDIN-3-YL-1H-INDAZOL-5-YLOXY)-PYRIDIN-3-YL]-1,7,9-TRIAZA-SPIRO[4.5]DECANE-6,8,10-TRIONE
1-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-y]-pyrrolidine-2,2-dicarboxylic acid diethyl ester can be prepared by dissolving 2-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-ylamino]-malonic acid diethyl ester (9.25 mmol) in dimethylformamide (90 mL), followed by addition of 1,3 dibromopropane (938 μL, 9.25 mmol) and cesium carbonate (6 grams, 18.5 mmol). The reaction mixture is stirred for approximately 24 hours to 48 hours. The mixture is filtered through celite, and then concentrated under vacuum while heating to 55° C. to remove the dimethylformamide (azeotroping with toluene). The crude product obtained is chromatographed on silica gel (ISCO MPLC purification, 40 minutes, 0-50% ethyl acetate gradient, Biotage flash 40m column) to provide the title compound.

reactant | 1-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-y]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC=1C=C2C=NN(C2=CC1)C=1C=NC=CC1)C(=O)OCC | C27H27N5O5
reactant | 2-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-ylamino]-malonic acid diethyl ester | 9.25 mmol | C(C)OC(C(C(=O)OCC)NC=1C=NC(=CC1)OC=1C=C2C=NN(C2=CC1)C=1C=NC=CC1)=O | C24H23N5O5
reactant | 1,3 dibromopropane | 9.25 mmol, 938 μL | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 18.5 mmol, 6 grams | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | 1-[6-(1-PYRIDIN-3-YL-1H-INDAZOL-5-YLOXY)-PYRIDIN-3-YL]-1,7,9-TRIAZA-SPIRO[4.5]DECANE-6,8,10-TRIONE | N1=CC(=CC=C1)N1N=CC2=CC(=CC=C12)OC1=CC=C(C=N1)N1CCCC12C(NC(NC2=O)=O)=O | C24H19N7O4
